US08084449B2
A mixture of N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide (50 mg, 0.077 mmol), 1-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}piperidine (30.8 mg, 0.077 mmol), Na2CO3 (24.44 mg, 0.231 mmol) and PdCl2(dppf) (5.62 mg, 7.69 μmol) was diluted in a mixture of 1,4-dioxane (3 mL) and water (1 mL) in a 2-5 mL Biotage microwave reaction tube. The mixture was degassed by bubbling argon through it for 5 minutes and it was then heated in a Biotage microwave at normal absorption for 10 minutes at 100° C. The crude mixture was filtered through a PL-Thiol MP SPE+ and was then washed with ethyl acetate and water. The organic layer was concentrated under vacuum to obtain a crude residue. It was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and converted to the free base with 1 N NaOH, and the basified solution was extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-(methyloxy)-3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-2,6-pyridinedicarboxamide as a solid (7.5 mg, 12.9%). LC-MS m/z 759 (M+H)+, 0.77 min (ret time); 1H NMR (400 MHz, CD3OD) δ 1.22-1.29 (m, 5H) 1.39 (t, J=7.15 Hz, 3H) 1.49-1.76 (m, 5H) 1.90-1.97 (m, 2H) 1.99-2.05 (m, 2H) 2.23 (s, 3H) 2.51 (d, J=7.03 Hz, 2H) 2.78-2.84 (m, 2H) 2.99 (q, J=7.53 Hz, 2H) 3.61 (td, J=11.42, 2.51 Hz, 2H) 3.74 (s, 3H) 3.90-4.02 (m, 2H) 4.12-4.19 (m, 1H) 4.40 (q, J=7.19 Hz, 2H) 4.58 (s, 2H) 4.74 (s, 2H) 6.97 (d, J=8.53 Hz, 1H) 7.01-7.08 (m, 1H) 7.16-7.32 (m, 5H) 7.98 (s, 1H) 8.15 (t, J=7.78 Hz, 1H) 8.28 (dd, J=7.91, 1.13 Hz, 1H) 8.36 (dd, J=7.78, 1.25 Hz, 1H).

reactant | N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide | 0.077 mmol, 50 mg | BrC=1C=C(C=CC1OC)CNC(=O)C1=NC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H36BrN7O4
reactant | 1-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}piperidine | 0.077 mmol, 30.8 mg | CN1CCC(CC1)CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C19H30BNO2
reactant | Na2CO3 | 0.231 mmol, 24.44 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 7.69 μmol, 5.62 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-(methyloxy)-3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-2,6-pyridinedicarboxamide | 7.5 mg, 12.9% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)OC)C2=CC(=CC=C2)CC2CCN(CC2)C)CC | C44H54N8O4
